US09210927B2
Step 2. 5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1-nitrosoindoline (BI16)
To (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)indoline (0.2 g, 0.5 mmol) in concentrated HCl (5.0 ml) at 5° C., was added slowly NaNO2 in water and the reaction was allowed to stir at ambient temperature for 2 h. The reaction mixture was diluted with CH2Cl2, and the CH2Cl2 layer washed with water and brine solution. The separated CH2Cl2 layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the crude product as a pale yellow solid that was used in the next step without further purification (0.2 g): 1H NMR (400 MHz, CDCl3) δ 7.33 (d, J=8.4 Hz, 1H), 7.39 (m, 4H), 6.61 (d, J=16.0 Hz, 1H), 6.35 (dd, J=16.0, 8.4 Hz, 1H), 4.07 (m, 3H), 3.23 (t, J=8.4 Hz, 2H); ESIMS m/z 418.82 ([M+H]+); IR (thin film) 1488, 1112, 860 cm−1.

reactant | (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)indoline | 0.5 mmol, 0.2 g | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2CCNC2=CC1)C(F)(F)F | C18H13Cl2F4N
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | HCl | 5.0 ml | Cl | ClH
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1-nitrosoindoline | ClC=1C=C(C=C(C1F)Cl)C(C=CC=1C=C2CCN(C2=CC1)N=O)C(F)(F)F | C18H12Cl2F4N2O
